US07491735B2
To a solution of (+)-DIP-chloride™ (6.42 g, 20.0 mmol) in THF (10 mL) at 0° C. was added 4-(4-bromobenzoyl)-piperidine-1-carboxylic acid tert-butyl ester (3.68 g, 10.0 mmol). The mixture was stirred at room temperature for 29 hours to give (R)-4-[(4-bromophenyl)-hydroxymethyl]-piperidine-1-carboxylic acid tert-butyl ester (ee 82% determined by both chiral HPLC and Mosher ester) as a crystalline solid (2.22 g, 54%) following work-up and purification. This material was recrystallized (CH2Cl2/hexane) five times to provide a white solid (1.27 g, 35%) with 95% ee.

reactant | (+)-DIP-chloride | B([C@H]1C[C@@H]2C[C@H]([C@@H]1C)C2(C)C)([C@H]3C[C@@H]4C[C@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
reactant | 4-(4-bromobenzoyl)-piperidine-1-carboxylic acid tert-butyl ester | 10.0 mmol, 3.68 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)Br)=O | C17H22BrNO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-4-[(4-bromophenyl)-hydroxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)[C@@H](O)C1=CC=C(C=C1)Br | C17H24BrNO3
